US04632925
Preparation of 3-[8-[4-(2,2-diphenylethenyl)-1-piperidinyl]octyl]pyridine
The title compound was prepared in a manner similar to that employed for the compound of Example 23 above starting with 8.64 g of 4-(2,2-diphenylethenyl)piperidine, 7.4 g of 3-(8-chlorooctyl)pyridine, 4.92 g of sodium iodide, 3.48 g of sodium carbonate, and 50 mL of dimethylformamide. The mixture was stirred an heated at 75° C. for 18 hours and then evaporated to dryness. The residue was partitioned between ethyl acetate and 1N sodium hydroxide and the organic layers were dried over sodium sulfate and evaporated to give 11.0 g (74%) of crude free base. Recrystallization from hexane gave the analytically pure, 3-[8-[4-(2,2-diphenylethenyl)-1-piperidinyl]octyl]pyridine, mp 54°-55° C. Analysis Calculated for C32H40N2 : C, 84.91; H, 8.91; N, 6.19. Found: C, 84.81; H, 8.74; N, 6.14. The fumaric acid salt was crystallized from ethanol/acetone, mp 128° -129° C. Analysis Calculated for C32H40N2.C4H4O4 : C, 76.02; H, 7.80; N, 4.93. Found: C, 76.15, H, 7.79, N, 4.89.

reactant | 4-(2,2-diphenylethenyl)piperidine | 8.64 g | C1(=CC=CC=C1)C(=CC1CCNCC1)C1=CC=CC=C1 | C19H21N
reactant | 3-(8-chlorooctyl)pyridine | 7.4 g | ClCCCCCCCCC=1C=NC=CC1 | C13H20ClN
reactant | sodium iodide | 4.92 g | [I-].[Na+]
reactant | sodium carbonate | 3.48 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-[8-[4-(2,2-diphenylethenyl)-1-piperidinyl]octyl]pyridine | C1(=CC=CC=C1)C(=CC1CCN(CC1)CCCCCCCCC=1C=NC=CC1)C1=CC=CC=C1 | C32H40N2
